US04350817
1-Ethyl-1,2-Dihydro-7-Methyl-2-Oxo-4-(1-Pyrrolidinyl)-1,8-Naphthridine-3-Carboxylic Acid Ethyl Ester
A stirred mixture of 5.9 g. (0.02 mole) of 1-ethyl-1,2-dihydro-4-chloro-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester, 1.4 g. (0.02 mole) of pyrrolidine and 2.12 g. (0.02 mole) of sodium carbonate was heated under reflux in 50 ml. of ethanol for 3 hours. The mixture was filtered and the filtrate was diluted with water to the cloudy point. The precipitate which formed was collected, air dried and was recrystallized from heptane to give 3.3 g. of the title compound, m.p. 113°-115° C.

reactant | 1-ethyl-1,2-dihydro-4-chloro-7-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 0.02 mole | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1Cl)C)CC)=O | C14H15ClN2O3
reactant | pyrrolidine | 0.02 mole | N1CCCC1 | C4H9N
reactant | sodium carbonate | 0.02 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Ethyl-1,2-Dihydro-7-Methyl-2-Oxo-4-(1-Pyrrolidinyl)-1,8-Naphthridine-3-Carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1N1CCCC1)C)CC)=O | C18H23N3O3
